US08193199B2
Prepared according to modified Procedure L. 6-Chloropurine (0.077 g, 0.5 mmol, 2 eq) and DABCO (0.112 g, 1 mmol, 4 eq) were stirred in DMSO (0.7 mL) at room temperature for 5 h. In a separate flask, sodium hydride (0.040 g, 1 mmol, 4 eq) was added portion-wise to a stirring solution of (2-(2-methoxyphenyl)-8-methylquinolin-3-yl)methanol (0.070 g, 0.25 mmol) in DMSO (0.5 mL), and after 30 minutes, the purine-DABCO salt was added to this mixture. The reaction stirred at room temperature 18 h. 3-((9H-purin-6-yloxy)methyl)-2-(2-methoxyphenyl)-8-methylquinoline [PI3Kδ IC50=38 nM] was isolated as a white solid after purification on a silica column. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.41 (1H, s), 8.51 (1H, s), 8.39 (1H, s), 7.87 (1H, d, J=7.8 Hz), 7.65 (1H, d, J=7.0 Hz), 7.49-7.56 (1H, m), 7.34-7.46 (2H, m), 7.12 (1H, d, J=8.2 Hz), 7.03 (1H, t, J=7.2 Hz), 5.58 (2H, s), 3.72 (3H, s), 2.69 (3H, s) Mass Spectrum (ESI) m/e=398.2 (M+1)

reactant | 6-Chloropurine | 0.5 mmol, 0.077 g, 2 eq | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | DABCO | 1 mmol, 0.112 g, 4 eq | C1CN2CCN1CC2 | C6H12N2
reactant | sodium hydride | 1 mmol, 0.040 g, 4 eq | [H-].[Na+]
reactant | (2-(2-methoxyphenyl)-8-methylquinolin-3-yl)methanol | 0.25 mmol, 0.070 g | COC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CO)C | C18H17NO2
reactant | purine DABCO | N1=CN=C2N=CNC2=C1.C1CN2CCN1CC2
solvent | DMSO | 0.7 mL | CS(=O)C | C2H6OS
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | 3-((9H-purin-6-yloxy)methyl)-2-(2-methoxyphenyl)-8-methylquinoline | N1=CN=C2NC=NC2=C1OCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)OC | C23H19N5O2
